US05801263
(2-Diphenylphosphinophenyl)methylphosphinic Acid
0.30 g (7.6 mmol) of NaOH in 5 ml of water are added dropwise at 23° C. to a solution of 1.50 g (3.8 mmol) of isobutyl (2-diphenylphosphinophenyl)methylphosphinate in 5 ml of THF. After refluxing for 6 hours, the mixture is diluted with a further 5 ml of THF, 3.0 ml of 2N hydrochloric acid are added dropwise at 23° C. and the mixture is stirred for 20 min at 23° C. After phase separation, the aqueous phase is extracted twice, each time with 20 ml of dichloromethane, and the combined organic phases are washed with 20 ml of water. After drying over Na2SO4, complete evaporation under reduced pressure and drying in high vacuum, 1.17 g of (2-diphenylphosphinophenyl)methylphosphinic acid (92% of theory) are obtained in the form of a pale yellow solid having an m.p. of 167° C.

reactant | NaOH | 7.6 mmol, 0.30 g | [OH-].[Na+]
reactant | isobutyl (2-diphenylphosphinophenyl)methylphosphinate | 3.8 mmol, 1.50 g | C1(=CC=CC=C1)P(C1=C(C=CC=C1)CP(OCC(C)C)=O)C1=CC=CC=C1 | C23H26O2P2
solvent | water | 5 ml | O | H2O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | hydrochloric acid | 2N, 3.0 ml | Cl | ClH
product | (2-Diphenylphosphinophenyl)methylphosphinic Acid | C1(=CC=CC=C1)P(C1=C(C=CC=C1)CP(O)=O)C1=CC=CC=C1 | C19H18O2P2
